US06586617B1
Synthesis of 4-Chloro-2′-fluoro-N-methoxy-4′-nitro-3-(trifluoromethyl)benzenesulfonanilide (Compound No. 524)
To a solution of 4-chloro-N-methoxy-3-(trifluoromethyl)benzenesulfonamide(0.58 g (2.00 mmol)) and 3,4-difluoronitrobenzene (0.66 ml (5.96 mmol)) in 5.0 ml of DMF, sodium hydride (60%, 0.09 g (2.25 mmol)) was added bit by bit with stirring under cooling with ice. The resulting mixture was stirred under cooling with ice for one hour and allowed to warm-up to room temperature. Water was added to the reaction mixture and the resulting mixture was extracted with diethyl ether. The extract was washed with water, and dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 0.32 g (37%) of the title compound as pale yellow crystals.

reactant | 4-chloro-N-methoxy-3-(trifluoromethyl)benzenesulfonamide | 2.00 mmol, 0.58 g | ClC1=C(C=C(C=C1)S(=O)(=O)NOC)C(F)(F)F | C8H7ClF3NO3S
reactant | 3,4-difluoronitrobenzene | 5.96 mmol, 0.66 ml | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | sodium hydride | 2.25 mmol, 0.09 g | [H-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 4-Chloro-2′-fluoro-N-methoxy-4′-nitro-3-(trifluoromethyl)benzenesulfonanilide | 0.32 g, 37% | ClC1=C(C=C(C=C1)S(=O)(=O)N(C1=C(C=C(C=C1)[N+](=O)[O-])F)OC)C(F)(F)F | C14H9ClF4N2O5S
